US05231183
(E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3thienyl)benzyloxy]benzylamine
To a solution of 280 mg (1.24 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine in 2.5 ml of tetrahydrofuran was added 74.4 mg (1.86 mmol) of 60% oily sodium hydride under ice cooling. The mixture was stirred for 20 minutes at room temperature, ice-cooled, treated with a solution of 333 mg (1.24 mmol) of 3-(3-thienyl)benzyl mesylate in 2.5 ml of dimethylformamide, and stirred for 1.5 hours at room temperature. The reaction mixture was poured into 40 ml of ethyl acetate, washed with 20 ml×2 of water and 20 ml of saturated sodium chloride aqueous solut-.ion, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=9/1). The desired fractions were put together and concentrated under reduced pressure to obtain 460 mg (yield: 93%) of the above identified compound as an oil.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-hydroxybenzylamine | 1.24 mmol, 280 mg | Cl/C=C/CN(CC)CC1=CC(=CC=C1)O | C12H16ClNO
reactant | sodium hydride | 1.86 mmol, 74.4 mg | [H-].[Na+]
reactant | 3-(3-thienyl)benzyl mesylate | 1.24 mmol, 333 mg | S(C)(=O)(=O)OCC1=CC(=CC=C1)C1=CSC=C1 | C12H12O3S2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3thienyl)benzyloxy]benzylamine | yield: 93% | Cl/C=C/CN(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1 | C23H24ClNOS
